*$
* LM3478
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: LM3478
* Date: 01MAR2018
* Model Type: AVERAGE
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM3478-BOOST
* EVM Users Guide: SNVA656A–June 2012–Revised October 2013
* Datasheet: SNVS085X –JULY 2000–REVISED DECEMBER 2017
* Topologies Supported: Boost, SEPIC
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* 
* 1. Since this is an average model used for AC analysis, 
*    only the pins affecting AC analysis are modeled.
* 2. Additional pins - VOUT, SW are added for BOOSTl; VOUT, SW1 and SW2
*     added for SEPIC.
* 3. The model takes the inductance (L), switching frequency (FS), 
*    and current sense resitors(RSN),(RSL) as parameters.
*    Pass appropriate values to these parameters based
*    on the application circuit.
* 4. The model contains two models - one for average BOOST(LM3478_AVG_BOOST)
*    and another for average SEPIC(LM3478_AVG_SEPIC) 
* 5. The operating quiescent current and thermal properties 
*    have not been modeled.
*
*****************************************************************************  
.SUBCKT LM3478_AVG_BOOST COMP FA_SD AGND PGND SW FB VIN VOUT DR ISEN PARAMS: L=1.8u RSN=0.015 RSL=0 FS=400000
E_U5_ABM4         U5_D2 0 VALUE { (V(U5_N14480982) )    }
R_U5_Rdc1         U5_N14480982 0  10k TC=0,0 
E_U5_ABM1         U5_SA 0 VALUE { (((0.092+40u*{RSL})*{Fs})/{RSN})    }
C_U5_C1         GND U5_CX  {4/({L}*(6.28*{Fs})**2)}  TC=0,0 
D_D1        U5_N14480023 U5_CLPP D_D1BOOSTl
G_U5_ABMII2         0 U5_N14480982 VALUE { (V(U5_D2X) * 100u)    }
V_U5_V3         U5_CLPN1 0 48m
G_U5_ABMII1         0 U5_N14480023 VALUE { (V(U5_DCX) * 100u)    }
V_U5_V2         U5_CLPP 0 {1-{58.33n*{Fs}}}
E_U5_ABM3         DR 0 VALUE { (V(U5_N14480023) )    }
R_U5_Rdc         U5_N14480023 0  10k TC=0,0 
D_D21          U5_CLPN1 U5_N14480982 D_D1
X_U5_H1    U5_CX SW U5_VM 0 CCM_U5_H1 
D_D20         U5_CLPN U5_N14480023 D_D1
G_U5_ABMII3         VOUT U5_CX VALUE { -(V(COMP) / ({Acs}*{RSN}))    }
V_U5_V1         U5_CLPN 0 {60n*{Fs}}
E_U5_E2         U5_N14484020 0 GND VOUT 1
G_U5_ABM3I1         U5_CX VOUT VALUE { -{(V(U5_SA)*V(DR)/{Fs})+(v(VIN)*V(DR)/(
+ {L}*{Fs}*2))}     }
E_U5_ABM7         U5_D2X 0 VALUE { (1-V(DR) )    }
D_D4        U5_N14480982 U5_D2X D_D1
E_U5_ABM5         U5_DCX 0 VALUE { ( V(U5_CXP)/  
+ (V(U5_N14484020) + 1u))   }
G_U5_ABM2I1         GND VOUT VALUE { (V(DR) * V(U5_VM))    }
E_U5_E1         U5_CXP 0 U5_CX VOUT 1
G_ABM2I1         COMP GND VALUE { (V(N16644669) - V(FB))*-800u    }
R_R1         GND COMP  50k  
V_V28         N16644669 GND 1.26
R_R8         GND AGND  1m  
R_R9         GND PGND  1m 
.PARAM ACS=2.2    
.ENDS LM3478_AVG_BOOST
*$
.SUBCKT LM3478_AVG_SEPIC COMP AGND PGND SW1 SW2 FB VIN VOUT FA_SD DR ISEN PARAMS: rsl=2k rsn=0.02 l1=33u l2=33u rfadj=28k  
V_V28         N16647307 GND 1.26
G_ABM2I1         COMP GND VALUE { (V(N16647307) - V(FB))*-800u    }
X_U5 COMP DR GND SW1 SW2 VIN VOUT CCM_SEPIC  PARAMS: rsl={rsl} rsn={rsn} l1={l1} l2={l2} rfadj={rfadj} 
R_R1         GND COMP  47.5k 
R_R8         GND AGND  1m  
R_R9         GND PGND  1m   
.ENDS LM3478_AVG_SEPIC
*$
.SUBCKT CCM_SEPIC COMP DC GRND SW1 SW2 VIN VOUT  PARAMS: rsl={rsl} rsn={rsn} l1={l1} l2={l2} rfadj={rfadj}  
G_ABM3I1         SW2 VOUT VALUE { {(V(SA)*V(DC)/{Fs})+(v(VIN)*V(DC)/({L}*
+ {Fs}*2))}     }
G_ABMII1         0 N14480023 VALUE { (V(DCX) * 100u)    }
D_D19         N14480023 CLPP D_D1
V_V3         CLPN1 0 48m
D_D21         N14480982 D2X D_D3
G_ABMII2         0 N14480982 VALUE { (V(D2X) * 100u)    }
D_D20         CLPN N14480023 D_D1
E_E1         CXP 0 SW1 GRND 1
E_ABM1         SA 0 VALUE { (((0.092+40u*{RSL})*{Fs})/{RSN})    }
C_C1         GRND SW2  {4/({L}*(6.28*{Fs})**2)}  TC=0,0 
E_E3         N16655710 0 CXP N16653860 1
E_E2         N16653860 0 GRND VOUT 1
G_ABM2I1         GRND VOUT VALUE { ((V(VM)*V(DC))/V(D2))    }
E_ABM7         D2X 0 VALUE { (1-V(DC) )    }
E_ABM5         DCX 0 VALUE { ( V(CXP)/  
+ V(N16655710)+ 1u)   }
E_ABM3         DC 0 VALUE { (V(N14480023) )    }
V_V1         CLPN 0 {60n*{Fs}}
R_Rdc         N14480023 0  10k TC=0,0 
E_ABM4         D2 0 VALUE { (V(N14480982) )    }
X_H1    SW1 VIN VM 0 CCM_SEPIC_H1 
V_V2         CLPP 0 {1-{58.33n*{Fs}}}
R_Rdc1         N14480982 0  10k TC=0,0 
D_D22         CLPN1 N14480982 D_D3
G_ABMII3         VOUT SW2 VALUE { -(V(COMP) / ({Acs}*{RSN}))    }
.PARAM  acs=2.2 Fs={1.7011e9*({rfadj}**-0.79)} L={{l1}+{l2}}
.ENDS CCM_SEPIC
*$
.subckt CCM_SEPIC_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends CCM_SEPIC_H1
*$
.subckt CCM_U5_H1 1 2 3 4  
H_U5_H1         3 4 VH_U5_H1 1
VH_U5_H1         1 2 0V
.ends CCM_U5_H1
*$
.model D_D1 d
+ bv=500
+ cjo=4.7e-010
+ eg=0.69
+ ibv=1e-006
+ is=9e-006
+ m=0.8
+ rs=0.06
+ vj=1
+ xti=2
*$
.MODEL D_D3 D( IS=1e-15 TT=10p Rs=0.05 N=.1 )
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L             IN 1  {L} 
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} 
RESR	1 OUT {ESR/X}
.ENDS CESR
*$