.subckt 3-phasemotor A B C N rpm rs rt w
Rsx X Xs {Rs}
Lsx Xs Xm {Lls} Rser=0
Lmx Xm 0 Bs={Bs} Br={Br} Hc={Hc} A={A} Lm={Lm} Lg={Lg} N={N} Rpar=9k
Lrx Xm Xr {Llr} Rser=0
Rrx Xr Xemf {Rr}
Bx Xemf 0 V=-Np*V(w)*sdt(V(Yr))
Rsy Y Ys {Rs}
Lsy Ys Ym {Lls} Rser=0
Lmy Ym 0 Bs={Bs} Br={Br} Hc={Hc} A={A} Lm={Lm} Lg={Lg} N={N} Rpar=9k
Lry Ym Yr {Llr} Rser=0
Rry Yr Yemf {Rr}
By Yemf 0 V=Np*V(w)*sdt(V(Xr))
Brt rt w I=Np*(sdt(V(Xm))*I(Lry)-sdt(V(Ym))*I(Lrx))
Cw w 0 {J}
Crt rt 0 -1µ Rpar=-1
Rf w 0 R=limit(1,1G,100k/V(w))
Erpm rpm 0 w 0 {60/2/Pi}
Brs rs 0 V=100*(1-Ks*V(w))
XX1 A B C N X Y 3to2xfmr
.param ; Motor Characteristics
+ Np=2 ; Stator Pole Number
+ J=0.03 ; Moment of Inertia
+ Ls=262m ; Stator Mutual Inductance
+ Lls=12m; Stator Leakage Inductance
+ Llr=20m ; Rotor Leakage Inductance
+ Rs=4.9 ; Stator Resistance
+ Rr=3.8 ; Rotor Resistance
.param N=475
+ Bs=1.8 Br=0.5 Hc=40
+ A=1m5 Lm=0.2 Lg=1m5
.param ; Slip Constant
+ Ks=Np/(f*2*Pi)
.ends 3-phasemotor

.subckt 3to2xfmr A B C N X Y
Fax N A Ex {a}
Fbx B N Ex {x}
Fby N B Ey {y}
Fcx C N Ex {x}
Fcy C N Ey {y}
Ex X 1 A B {x}
E1 1 0 A C {x}
Ey Y 0 B C {y}
Cn 0 N 1µ Rpar={1/Gmin}
.param
+ a=sqrt(2/3)
+ x=sqrt(1/6)
+ y=sqrt(1/2)
.ends 3to2xfmr
